US07772285B2
1.20 g of ethyl (E)-3-(4-{[4-[4-(cyclopentyloxy)-2-hydroxybenzoyl]-2-(3-methoxy-3-oxopropyl)phenoxy]methyl}phenyl)-2-propenoate was dissolved in a mixed solvent of 12 mL of methanol and 12 mL of tetrahydrofuran, to which 2.4 mL of a 20% aqueous solution of sodium hydroxide was added at room temperature, and then this mixture was stirred for one hour at the same temperature. The reaction mixture was concentrated under reduced pressure, to which water was added, and then adjusted to pH 2 with 6M hydrochloric acid. The resultant precipitate was filtered out and washed with water to yield 0.841 g of (E)-3-(4-{[4-[4-(cyclopentyloxy)-2-hydroxybenzoyl]-2-(3-hydroxy-3-oxopropyl)phenoxy]methyl}phenyl)-2-propenoic acid as light yellow solid.

reactant | ethyl (E)-3-(4-{[4-[4-(cyclopentyloxy)-2-hydroxybenzoyl]-2-(3-methoxy-3-oxopropyl)phenoxy]methyl}phenyl)-2-propenoate | 1.20 g | C1(CCCC1)OC1=CC(=C(C(=O)C2=CC(=C(OCC3=CC=C(C=C3)/C=C/C(=O)OCC)C=C2)CCC(=O)OC)C=C1)O | C34H36O8
solvent | methanol | 12 mL | CO | CH4O
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
solvent | sodium hydroxide | [OH-].[Na+]
product | (E)-3-(4-{[4-[4-(cyclopentyloxy)-2-hydroxybenzoyl]-2-(3-hydroxy-3-oxopropyl)phenoxy]methyl}phenyl)-2-propenoic acid | 0.841 g | C1(CCCC1)OC1=CC(=C(C(=O)C2=CC(=C(OCC3=CC=C(C=C3)/C=C/C(=O)O)C=C2)CCC(=O)O)C=C1)O | C31H30O8
